US04131684
5-Hydroxy-4-m-nitrobenzamido-1-naphthalenesulfonic acid sodium salt
A 43 g portion of recrystallized 8-amino-1-naphthol-5-sulfonic acid is suspended in 80 ml of water and 180 ml of 1N sodium hydroxide is added, then 66.6 g of m-nitrobenzoyl chloride is added all at once, washing in with a small amount of ether. The mixture is shaken for 5 minutes and another 180 ml of 1N sodium hydroxide is added with shaking for 1/2 hour. The latter addition of sodium hydroxide and shaking is repeated two more times. The resulting solution is filtered and the filtrate is made acid to Congo Red with hydrochloric acid, a precipitate forms which is collected by filtration. The solid is stirred with about 500 ml of ether and is filtered. This operation is repeated. The ethereal layer is then removed by vacuum siphoning and the solid is then dissolved in about 350 ml of hot water which is allowed to cool to give the product as a green solid which is collected by filtration. The product is then washed with saturated saline solution, 50% ethyl alcohol, absolute ethyl alcohol and ether.

reactant | 8-amino-1-naphthol-5-sulfonic acid | C1=CC2=C(C=CC(=C2C(=C1)O)N)S(=O)(=O)O | C10H9NO4S
reactant | sodium hydroxide | 1N, 180 ml | [OH-].[Na+]
reactant | m-nitrobenzoyl chloride | 66.6 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | water | 80 ml | O | H2O
product | 5-Hydroxy-4-m-nitrobenzamido-1-naphthalenesulfonic acid sodium salt | [Na+].OC1=C2C(=CC=C(C2=CC=C1)S(=O)(=O)[O-])NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | InChI=1S/C17H12N2O7S.Na/c20-14-6-2-5-12-15(27(24,25)26)8-7-13(16(12)14)18-17(21)10-3-1-4-11(9-10)19(22)23;/h1-9,20H,(H,18,21)(H,24,25,26);/q;+1/p-1
